US07365095B2
To a solution of 2′,6′-dichloro-5-fluoro-2-methoxybiphenyl (12.44 g, 46 mmol) in methylene chloride (200 mL) was added boron tribromide (10.8 mL, 92 mol) at −78° C. The resulting mixture was stirred at −78° C. to room temperature overnight. The reaction mixture was poured into the ice-NH4OH and extracted with methylene chloride. The organic layer was washed with water and dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum. Chromatography with 10–40% ethyl acetate in hexanes afforded 11.63 g (98%) of 2′,6′-dichloro-5-fluorobiphenyl-2-ol as a colorless oil. MS (ES) m/z 255.1([M−H]−).

reactant | 2′,6′-dichloro-5-fluoro-2-methoxybiphenyl | 46 mmol, 12.44 g | ClC1=C(C(=CC=C1)Cl)C1=C(C=CC(=C1)F)OC | C13H9Cl2FO
reactant | boron tribromide | 92 mol, 10.8 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2′,6′-dichloro-5-fluorobiphenyl-2-ol | 11.63 g, 98% | ClC1=C(C(=CC=C1)Cl)C=1C(=CC=C(C1)F)O | C12H7Cl2FO
